US05100577
0.62 g of trans-4-[(p-(5-decyl-2-pyrimidinyl)phenoxymethyl]cyclohexanol, 0.196 g of (S)-2-fluorocaproic acid, 0.413 g of dicyclohexylcarbodiimide and 0.025 g of 4-(dimethylamino)pydidine were dissolved in 25 ml of methylene chloride and stirred at room temperature for 15 hours. The white suspension was subsequently filtered. The residue obtained after evaporation of the solvent from the filtrate was purified by chromatography on silica gel with ethyl acetate/petroleum ether (vol. 1:9). Subsequent crystallization from 10 ml of ethyl acetate and 50 ml of hexane gave 0.62 g of trans-4-[(p-(5-decyl-2-pyrimidinyl)phenoxy)methyl]cyclohexyl (S)-2-fluorohexanoate as colourless crystals, m.p. (C-S) 88.5° C., phase transitions (S-SC) 108.8° C., (SC -SA) 128° C., cl.p. (SA -I) 137.7° C.

reactant | (p-(5-decyl-2-pyrimidinyl)phenoxymethyl]cyclohexanol | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(OCC2(CCCCC2)O)C=C1 | C27H40N2O2
reactant | (S)-2-fluorocaproic acid | 0.196 g | F[C@H](C(=O)O)CCCC | C6H11FO2
reactant | dicyclohexylcarbodiimide | 0.413 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | trans-4-[(p-(5-decyl-2-pyrimidinyl)phenoxy)methyl]cyclohexyl (S)-2-fluorohexanoate | 0.62 g | F[C@H](C(=O)O[C@@H]1CC[C@H](CC1)COC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCCCC)CCCC | C33H49FN2O3
